US04581415
p-Tolylphenylphosphine oxide.
A solution of p-tolylmagnesium bromide [prepared from p-bromotolueme (29.1 g, 0.16 mol) and magnesium (4.38 g, 0.18 g-atom)] in ether (100 mL) was treated with a solution of ethyl phenylphosphonite (13,6 g, 0.08 mol) in ether (50 mL) with vigorous mechanical stirring. The mixture was heated at reflux for 1/2 hr., then 100 mL of 25% sulfuric acid was added cautiously. Three layers formed; the bottom (aqueous) layer was extracted with toluene. Addition of NaHCO3, to the combined upper layers produced a vigorous reaction and a single organic phase. The organic phase was washed with water and with saturated NaCl, dried and evaporated to give an oil (14 g). Kugelrohr distillation at 120°-160° C. (0.1 mmHg) followed by chromatography on silica gel (CHCl3), then 10% MeOH-CHCl3) gave 7.1 g of an oil. This was distilled in the Kugelrohr again (150° C., 0.1 mmHg) to give 6.2 g of product which appears to be pure by NMR and crystallized on standing. 1H NMR (CDCl3) δ 8.0-7.2 (m, 9 H), 8.08 (d, J=480 Hz, 1 H), 2.42 (s, 3 H).

reactant | p-tolylmagnesium bromide | 0.16 mol, 29.1 g | C1(=CC=C(C=C1)[Mg]Br)C
reactant | ethyl phenylphosphonite | 0.08 mol, 13,6 g | C1(=CC=CC=C1)P(OCC)[O-]
reactant | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | p-Tolylphenylphosphine oxide | 14 g | C1(=C(C=CC=C1)C1=CC=C(C=C1)[PH2]=O)C | C13H13OP
